US07192968B2
(±)-cis-N1-[(5-Chloroindol-2-yl)carbonyl]-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclobutanediamine hydrochloride
Lithium 5-methyl-4,5,6,7-tetrahydrothiazolo-[5,4-c]pyridine-2-carboxylate (136 mg), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (255 mg) and 1-hydroxybenzotriazole monohydrate (90 mg) were added to a solution with (±)-cis-N-[(5-chloroindol-2-yl)carbonyl]-1,2-cyclobutanediamine (117 mg) dissolved in N,N-dimethylformamide (5 ml), and the mixture was stirred overnight at room temperature. The solvent was then distilled off under reduced pressure using a vacuum pump, and dichloromethane and a saturated aqueous solution of sodium hydrogencarbonate were added to the residue to conduct liquid separation. The resultant organic layer was washed with saturated saline and dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure, and the residue was purified by flash column chromatography on silica gel (methanol:dichloromethane=7:93). After ethyl acetate and a 1N ethanol solution of hydrochloric acid were added to the thus-obtained compound to acidify it, and the solvent was distilled off under reduced pressure. Ethyl acetate was added again, and precipitate formed was collected by filtration and dried to obtain the title compound (56 mg) as a colorless powder.

reactant | Lithium 5-methyl-4,5,6,7-tetrahydrothiazolo-[5,4-c]pyridine-2-carboxylate | 136 mg | CN1CC2=C(CC1)N=C(S2)C(=O)[O-].[Li+]
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 255 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole monohydrate | 90 mg | O.ON1N=NC2=C1C=CC=C2
reactant | (±)-cis-N-[(5-chloroindol-2-yl)carbonyl]-1,2-cyclobutanediamine | 117 mg | ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H]1[C@H](CC1)N | C13H14ClN3O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (±)-cis-N1-[(5-Chloroindol-2-yl)carbonyl]-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclobutanediamine hydrochloride | 56 mg | Cl.ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H]1[C@H](CC1)NC(=O)C=1SC=2CN(CCC2N1)C | InChI=1S/C21H22ClN5O2S.ClH/c1-27-7-6-16-18(10-27)30-21(26-16)20(29)25-15-5-4-14(15)24-19(28)17-9-11-8-12(22)2-3-13(11)23-17;/h2-3,8-9,14-15,23H,4-7,10H2,1H3,(H,24,28)(H,25,29);1H/t14-,15+;/m1./s1
